US07612055B2
b) (3S,14R)-16-(2-Chloro-1-hydroxy-ethyl)-3,4,14-trimethyl-1,4diaza-cyclohexadecane-2,5-dione
A solution of 1.24 g (3.32 mmol) of (E)-(3S,14R)-16-(2-chloro-1-hydroxy-ethyl)-3,4,14-trimethyl-1,4diaza-cyclohexadec-10-ene-2,5-dione in 33 ml EtOH is stirred at rt in the presence of 332 mg 10% Pd/C under a hydrogen atmosphere for 1 h. More catalyst is added (332 mg) and the hydrogenation is continued for 4 h. The catalyst is filtered off and the filtrate evaporated. The residue is purified by chromatography on silica gel (DCM/methanol 95/5) and gives the title compound as a brownish foam (mixture of diastereomers).

reactant | (E)-(3S,14R)-16-(2-chloro-1-hydroxy-ethyl)-3,4,14-trimethyl-1,4diaza-cyclohexadec-10-ene-2,5-dione | 3.32 mmol, 1.24 g | ClCC(O)C1C[C@@H](CC/C=C/CCCCC(N([C@H](C(N1)=O)C)C)=O)C | C19H33ClN2O3
solvent | EtOH | 33 ml | CCO | C2H6O
catalyst | Pd/C | 332 mg | [Pd] | Pd
product | (3S,14R)-16-(2-Chloro-1-hydroxy-ethyl)-3,4,14-trimethyl-1,4diaza-cyclohexadecane-2,5-dione | ClCC(O)C1C[C@@H](CCCCCCCCC(N([C@H](C(N1)=O)C)C)=O)C | C19H35ClN2O3
